US08461328B2
Trans (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-[4-(2-methanesulfonyl-ethyl)-cyclohexyl]-amine (1.04 g, 2.05 mmol) was suspended in a mixture of ethanol (10 mL, IMS grade) and water (3.3 mL). Ammonium chloride (658 mg, 12.3 mmol) was added, followed by iron (dust, 460 mg, 8.20 mmol), and the mixture was heated at 100° C. for 2 h. The mixture was cooled to room temperature, then diluted with a 4:1 mixture of DCM: 2 M ammonia in methanol and filtered through Celite®. The filter cake was washed with further 4:1 DCM: 2 M ammonia in methanol and the combined filtrate was concentrated under vacuum. The residue was suspended in water and extracted with DCM (×3). The combined organic extracts were washed with brine then dried (Na2SO4) and concentrated to give 1.04 g (quant) of crude trans 1-benzenesulfonyl-N*4*-[4-(2-methanesulfonyl-ethyl)-cyclohexyl]-1H-pyrrolo[2,3-b]pyridine-4,5-diamine, which was used directly without further purification. LCMS (Method Q, ESI): RT=2.62 min, m+H=477.1.

reactant | Trans (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-[4-(2-methanesulfonyl-ethyl)-cyclohexyl]-amine | 2.05 mmol, 1.04 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2N[C@@H]2CC[C@H](CC2)CCS(=O)(=O)C)[N+](=O)[O-] | C22H26N4O6S2
reactant | Ammonium chloride | 12.3 mmol, 658 mg | [Cl-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 3.3 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | iron | 8.20 mmol, 460 mg | [Fe] | Fe
product | trans 1-benzenesulfonyl-N*4*-[4-(2-methanesulfonyl-ethyl)-cyclohexyl]-1H-pyrrolo[2,3-b]pyridine-4,5-diamine | 1.04 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2N[C@@H]2CC[C@H](CC2)CCS(=O)(=O)C)N | C22H28N4O4S2
